US04046753
2-(o-Tolylhydrazino)-2-Thiazoline
A mixture of 27.2 g. (0.15 moles) of 1-(o-tolyl)-3-thiosemicarbazide, 31 g. (0.15 moles) of 2-bromoethylamine hydrobromide, and 800 ml. of isopropanol are heated at reflux temperature for 16 hours. The reaction mixture is cooled to room temperature and filtered. The solid material is washed with hot water and the aqueous solution is treated with saturated sodium bicarbonate solution. The solid material which separates is filtered, washed with water, and recrystallized with methanol affording 13 g. of 2-(o-tolylhydrazino)-2-thiazoline, m.p. 126°-127° C.

reactant | 1-(o-tolyl)-3-thiosemicarbazide | 0.15 moles | C1(=C(C=CC=C1)NNC(=S)N)C | C8H11N3S
reactant | 2-bromoethylamine hydrobromide | 0.15 moles | Br.BrCCN
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-(o-Tolylhydrazino)-2-Thiazoline | C1(=C(C=CC=C1)NNC=1SCCN1)C | C10H13N3S
